US09168259B2
A mixture of 2,6-dichloro-4-methyl-pyridine-3-carboxylic acid ethyl ester (29.7 g, 127 mmol), potassium carbonate (26.3 g, 190 mmol), and morpholine (13.3 g, 152 mmol) in dimethylformamide (350 ml) is stirred for 18 h at 95° C. After completion of the reaction, water is added and the mixture is extracted with diethyl ether (3×). The combined organic layers are washed with water (2×) and brine (1×), dried over magnesium sulphate and evaporated to dryness. The crude product is purified by flash chromatography (silica gel, 25% ethyl acetate/cyclohexane) to yield 2-chloro-4-methyl-6-morpholin-4-yl-pyridine-3-carboxylic acid ethyl ester (10.5 g, 36.9 mmol, 29%).

reactant | 2,6-dichloro-4-methyl-pyridine-3-carboxylic acid ethyl ester | 127 mmol, 29.7 g | C(C)OC(=O)C=1C(=NC(=CC1C)Cl)Cl | C9H9Cl2NO2
reactant | potassium carbonate | 190 mmol, 26.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | morpholine | 152 mmol, 13.3 g | N1CCOCC1 | C4H9NO
reactant | water | O | H2O
solvent | dimethylformamide | 350 ml | CN(C=O)C | C3H7NO
product | 2-chloro-4-methyl-6-morpholin-4-yl-pyridine-3-carboxylic acid ethyl ester | 36.9 mmol, 10.5 g, 29% | C(C)OC(=O)C=1C(=NC(=CC1C)N1CCOCC1)Cl | C13H17ClN2O3
